US07452901B2
Preparation of (2-{4-[(2,4-Diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoylamino}-ethyl)-phosphonic acid
To a solution of crude (2-{4-[(2,4-diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoylamino}-ethyl)-phosphonic acid diethyl ester post silica column chromatography (61 mg, 125 μmol) in dry DMF (1.00 mL) was added TMSBr (129.0 μL, 999.2 μmol) at ambient temperature. The solution was then heated at 70° C. for 5.5 hours, when LCMS analysis demonstrated the reaction to be 90% complete. The reaction mixture was allowed to cool to room temperature and stirred for an additional 12 hours. The reaction was worked up by removal of the solvent in vacuo and dissolving the residue in DMF/H2O (800 μL, 1:1) and 1N aqueous NaOH (15 μL). The product was purified by RP HPLC on C18 column using H2O/acetonitrile (2-95%) to provide 29 mg (53%) of the desired compound as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 1.67-1.85 (m, 2H), 3.19 (s, 3H), 3.25-3.40 (m, 2H), 4.76 (s, 2H), 6.71 (br s, 2H), 5.80 (d, 2H, J=9 Hz), 7.64 (d, 2H, J=9 Hz), 7.73 (br s, 2H), 8.15 (br s, 1H), 8.56 (s, 1H). 31P (121.4 MHz, DMSO-d6) δ 23.0. MS (m/z) 431.3 [M−H]−.

reactant | (2-{4-[(2,4-diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoylamino}-ethyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCNC(C1=CC=C(C=C1)N(C)CC=1N=C2C(=NC(=NC2=NC1)N)N)=O | C21H29N8O4P
reactant | TMSBr | 999.2 μmol, 129.0 μL | C[Si](C)(C)Br | C3H9BrSi
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | (2-{4-[(2,4-Diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoylamino}-ethyl)-phosphonic acid | 29 mg, 53% | NC1=NC2=NC=C(N=C2C(=N1)N)CN(C1=CC=C(C(=O)NCCP(O)(O)=O)C=C1)C | C17H21N8O4P
